US09056873B2
Step A: (E)-1-(1-(3-Bromothiophen-2-yl)ethylidene)-2-(diphenylmethylene) hydrazine
1-(3-Bromothiophen-2-yl)ethanone (8.0 g, 39.0 mmol) and (diphenylmethylene)hydrazine (8.42 g, 42.9 mmol) were dissolved in ethanol (75 mL). The reaction mixture was heated in an oil bath at 80° C. for 16 hours. Following reaction, the volatiles were evaporated, and the condensed mixture was purified via silica gel column chromatography, eluting with a gradient of 0-100% hexane and EtOAc. The pure fractions were combined and evaporated to give the title compound as a yellow solid (12.5 g, 84%). ESI-MS m/z [M+H]+ calc'd for C19H15BrN2S, 384. found, 384.

reactant | 1-(3-Bromothiophen-2-yl)ethanone | 39.0 mmol, 8.0 g | BrC1=C(SC=C1)C(C)=O | C6H5BrOS
reactant | (diphenylmethylene)hydrazine | 42.9 mmol, 8.42 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)=NN | C13H12N2
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | (E)-1-(1-(3-Bromothiophen-2-yl)ethylidene)-2-(diphenylmethylene) hydrazine | 12.5 g, 84% | BrC1=C(SC=C1)\C(\C)=N\N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15BrN2S
